US07307090B2
b) trans 4-[4-(3,4-Dichlorophenoxy)-1-piperidinyl]-cyclohexanecarboxylic acid
trans Ethyl 4-[4-(3,4-dichlorophenoxy)-1-piperidinyl]-cyclohexanecarboxylate (0.8 g) was dissolved in t-BuOH (180 ml) at 38° C. To this was added Candia rugosa lipase powder (3 g). This was stirred for 30 minutes then water (20 ml) was added over 4 h. The mixture was then stirred for 48 h and filtered. The enzyme was washed with 9:1 t-BuOH-water (2×20 ml) and the filtrate was evaporated. Ethyl acetate was added to the residue and then decanted. The resultant solid was dissolved in methanol/DMSO and was purified by HPLC (Waters XTerra® column with at-column dilution of sample) (gradient (5% MeCN/NH3(aq) (0.2%) to 40% MeCN//NH3(aq) (0.2%)] gave the title compound (0.44 g) as a white solid.

reactant | trans Ethyl 4-[4-(3,4-dichlorophenoxy)-1-piperidinyl]-cyclohexanecarboxylate | 0.8 g | ClC=1C=C(OC2CCN(CC2)[C@@H]2CC[C@H](CC2)C(=O)OCC)C=CC1Cl | C20H27Cl2NO3
reactant | water | 20 ml | O | H2O
solvent | t-BuOH | 180 ml | CC(C)(C)O | C4H10O
product | trans 4-[4-(3,4-Dichlorophenoxy)-1-piperidinyl]-cyclohexanecarboxylic acid | 0.44 g | ClC=1C=C(OC2CCN(CC2)[C@@H]2CC[C@H](CC2)C(=O)O)C=CC1Cl | C18H23Cl2NO3
